US07105544B2
Isopropyl 3-(1-{3-[(Diphenylacetyl)Amino]Propyl}-4-Piperidinyl)Phenylcarbamate
Example 144 was prepared from diphenylacetyl chloride and isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.25–7.12 (m, 12H), 7.09–7.06 (m, 1H), 7.00–6.94 (m, 1H), 6.79 (d, 1H, J=7.6 Hz), 6.60 (s, 1H), 4.92 (septet, 1H, J=6.2 Hz), 4.79 (s, 1H), 4.04 (q, 1H, J=6.4 Hz), 3.30 (q, 2H, J=5.8 Hz), 2.91–2.83 (m, 2H), 2.42–2.30 (m, 3H), 1.91 (t, 2H, J=11.4 Hz), 1.74–1.67 (m, 2H), 1.65–1.51 (m, 3H), 1.21 (d, 6H, J=6.2 Hz); ESMS m/e: 514.2 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O | C18H29N3O2
product | Isopropyl 3-(1-{3-[(Diphenylacetyl)Amino]Propyl}-4-Piperidinyl)Phenylcarbamate | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O)C1=CC=CC=C1 | C32H39N3O3
